* TL072 JFET-input dual operational amplifier macro-model
* Low noise, high slew rate
.subckt TL072 1 2 6 7 4
* pins: non-inv inv out v+ v-
* Input stage with JFET characteristics
RIN+ 1 4 1e12
RIN- 2 4 1e12
EGAIN 3 0 1 2 200000
* Output stage with slew limiting
ROUT 3 6 75
COUT 6 4 6p
.ENDS TL072
